US08664217B2
A 4N-hydrogen chloride ethyl acetate solution (0.37 ml) was added to an ethyl acetate solution (10 ml) of 1-ethyl-3,3,5-trimethyl-7-[3-(2-pyridin-3-ylethylamino)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (207 mg, 0.49 mmol), and stirred for 30 minutes at room temperature. The precipitated insoluble matter was collected by filtration, washed with ethyl acetate, and dried to thereby obtain 208 mg (yield: 85%) of 1-ethyl-3,3,5-trimethyl-7-[3-(2-pyridin-3-ylethylamino)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione dihydrochloride as a pale yellow amorphous solid.

reactant | hydrogen chloride ethyl acetate | 0.37 ml | C(C)OC(C)=O.Cl
reactant | 1-ethyl-3,3,5-trimethyl-7-[3-(2-pyridin-3-ylethylamino)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.49 mmol, 207 mg | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCNCCC=2C=NC=CC2 | C24H32N4O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-ethyl-3,3,5-trimethyl-7-[3-(2-pyridin-3-ylethylamino)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione dihydrochloride | 208 mg, yield: 85% | Cl.Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCNCCC=2C=NC=CC2 | InChI=1S/C24H32N4O3.2ClH/c1-5-28-20-10-9-19(16-21(20)27(4)22(29)24(2,3)23(28)30)31-15-7-13-25-14-11-18-8-6-12-26-17-18;;/h6,8-10,12,16-17,25H,5,7,11,13-15H2,1-4H3;2*1H
